US08420695B2
5-[2,6-difluoro-4-(1-hydroxy-1-methyl ethyl)phenyl]-2-({4-[(methylsulfonyl)amino]phenyl}amino)thiophene-3-carboxamide was prepared according to the general procedure in Example 1 using 2-amino-5-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]thiophene-3-carboxamide (85 mg, 0.272 mmol) and N-(4-bromophenyl)-N-(methylsulfonyl)methanesulfonamide (89 mg, 0.272 mmol) as the starting materials.

reactant | 2-amino-5-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]thiophene-3-carboxamide | 0.272 mmol, 85 mg | NC=1SC(=CC1C(=O)N)C1=C(C=C(C=C1F)C(C)(C)O)F | C14H14F2N2O2S
reactant | N-(4-bromophenyl)-N-(methylsulfonyl)methanesulfonamide | 0.272 mmol, 89 mg | BrC1=CC=C(C=C1)N(S(=O)(=O)C)S(=O)(=O)C | C8H10BrNO4S2
product | 5-[2,6-difluoro-4-(1-hydroxy-1-methyl ethyl)phenyl]-2-({4-[(methylsulfonyl)amino]phenyl}amino)thiophene-3-carboxamide | FC1=C(C(=CC(=C1)C(C)(C)O)F)C1=CC(=C(S1)NC1=CC=C(C=C1)NS(=O)(=O)C)C(=O)N | C21H21F2N3O4S2
